US04661499
Step 2: Preparation of 1-(4-hydroxyphenyl)-hexanone
A solution of 1-(4-methoxyphenyl)hexanone (5 g) in acetic acid (50 ml) and 48% HBr was heated overnight at 120°. The reaction mixture was poured onto ice and extracted with ethylacetate (500 ml). The ethyl acetate layer was washed with NaHCO3 (200 ml), dried, and evaporated. Chromatography of the residue using 30% ethylacetate in hexane afforded 1.7 g of the title compound.

reactant | 1-(4-methoxyphenyl)hexanone | 5 g | COC1=CC=C(C=C1)CC(CCCC)=O | C13H18O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | HBr | Br | BrH
product | 1-(4-hydroxyphenyl)-hexanone | 1.7 g | OC1=CC=C(C=C1)CC(CCCC)=O | C12H16O2
